US04474963
A 5,000 mL, 3-necked flask fitted with a mechanical stirrer, thermometer and 500 mL addition funnel was charged with water (2,000 mL) and 70% aqueous HClO4 (2.0 mL), then heated to 80° C. Allyl glycidyl ether (500 g, 4.38 mol) was added in one portion and the reaction mixture stirred for 12 hours. The mixture was neutralized by addition of 5% aqueous Na2CO3 to pH=8. The water was evaporated in vacuo to leave 550 g of crude product, which was distilled to yield 498 g (86%) of pure 3-allyloxy-1,2-propanediol: bp 76°-83° C. (0.4 mm).

reactant | Allyl glycidyl ether | 4.38 mol, 500 g | C(C1CO1)OCC=C | C6H10O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 2,000 mL | O | H2O
product | 3-allyloxy-1,2-propanediol | 498 g, 86% | C(C=C)OCC(CO)O | C6H12O3
